US06420409B1
Production of 1-(4-butyloxy-2-chlorobenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole
N,N-dimethylformamide (5 ml) was added to 60% sodium hydride (0.20 g, oily). Crystals of 1-(2-chloro-4-hydroxybenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole (0.80 g) were added gradually thereto at room temperature. After stirring for 1 hour at room temperature, n-butyl bromide (0.28 g, 4.14 mmol) was added to the mixture. After further stirring for 15 hours at room temperature, water and subsequently ethyl acetate were added to the solution to effect extraction. The organic layer was separated, washed twice with water, and concentrated to obtain 0.62 g of oil.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 1-(2-chloro-4-hydroxybenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole | 0.80 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC(=C1)O | C18H17ClN2O3
reactant | n-butyl bromide | 4.14 mmol, 0.28 g | C(CCC)Br | C4H9Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-butyloxy-2-chlorobenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole | 0.62 g | C(CCC)OC1=CC(=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=C1)Cl | C22H25ClN2O3
